US05849216
5-(5-Dodecylpyrimid-2-yl)-2-phenylpyridine
The synthesis was carried out analogously to Example 27 from 2-bromo-5-dodecylpyrimidine and 2-phenylpyridine-5-boronic acid.

reactant | 2-bromo-5-dodecylpyrimidine | BrC1=NC=C(C=N1)CCCCCCCCCCCC | C16H27BrN2
reactant | 2-phenylpyridine-5-boronic acid | C1(=CC=CC=C1)C1=NC=C(C=C1)B(O)O | C11H10BNO2
product | 5-(5-Dodecylpyrimid-2-yl)-2-phenylpyridine | C(CCCCCCCCCCC)C=1C=NC(=NC1)C=1C=CC(=NC1)C1=CC=CC=C1 | C27H35N3
